US07696195B2
2f) (R)-2-(4-amino-3-methyl-5-nitro-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 120 mg (5.0 mmol) LiOH in 5 mL water was metered into a solution of 1.0 g (1.8 mmol) (R)-2-(4-amino-3-methyl-5-nitro-phenyl)-1-methoxy-carbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 10 mL THF, the reaction solution was stirred for 4 h at RT and then evaporated down i.vac. The residue was combined with 30 mL water, washed with 30 mL diethyl ether, acidified with 4 M HCl while cooling with an ice bath and stirred for 30 min at RT. The precipitate was filtered off, washed with water and dried.

reactant | LiOH | 5.0 mmol, 120 mg | [Li+].[OH-]
reactant | (R)-2-(4-amino-3-methyl-5-nitro-phenyl)-1-methoxy-carbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.8 mmol, 1.0 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](C(C1=CC(=C(C(=C1)[N+](=O)[O-])N)C)=C=O)OC)C=CC=C2 | C26H29N5O7
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (R)-2-(4-amino-3-methyl-5-nitro-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)[N+](=O)[O-])N)C)C(=O)O)C=CC=C2 | C25H29N5O7
